US07671060B2
Methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-[(2S)-1-[(2-methylpropan-2-yl)oxy]propan-2-yl]oxy-benzoate
To methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-hydroxy-benzoate (10 g, 32 mmol) was added triphenylphosphine (10.3 g, 39.4 mmol), THF (100 mL) and (2R)-1-[(2-methylpropan-2-yl)oxy]propan-2-ol (CAS no. 136656-73-0) (5.21 g, 39.4 mmol). The resulting slurry was cooled to 0° C. and diethylazodicarboxylate (50% w/v in toluene, 13.7 mL, 39.4 mmol) was charged dropwise keeping the temperature below 10° C. After 2 hours the solvent was evaporated under reduced pressure and taken up with ethyl acetate (23 mL). A solid crashed out which was filtered and the mother liquors were evaporated under reduced pressure, taken up into ethyl acetate (23 mL) and isohexane (53 mL) and the resulting solid filtered, the mother liquors were evaporated under reduced pressure and the resulting residue was purified by flash chromatography eluting with 80% ethyl acetate/20% isohexane to afford the product (13.5 g).

reactant | methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-hydroxy-benzoate | 32 mmol, 10 g | CN(C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O)C | C15H15N3O5
reactant | triphenylphosphine | 39.4 mmol, 10.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R)-1-[(2-methylpropan-2-yl)oxy]propan-2-ol | CC(C)(C)OC[C@@H](C)O | C7H16O2
reactant | diethylazodicarboxylate | 39.4 mmol, 13.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-[(2S)-1-[(2-methylpropan-2-yl)oxy]propan-2-yl]oxy-benzoate | 13.5 g | CN(C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC(C)(C)C)C)C | C22H29N3O6
